US06696473B2
Preparation of 4-Methylamino-3-nitrobenzonitrile
4-Fluoro-3-nitrobenzonitrile (0.25 g, 1.5 mmol) was cautiously added to a solution of methylamine (2.0 M, 5.0 mL) in THF. The mixture was stirred at room temperature for 8 h, concentrated under reduced pressure, and chromatographed (silica gel, DCM) to give the title product (0.18 g, 68%) as a yellow solid. 1H-NMR (CDCl3): δ 8.52 (1H, d), 8.41 (1H, br s), 7.64 (1H, dd), 6.92 (1H, d), 3.10 (3H, d).

reactant | 4-Fluoro-3-nitrobenzonitrile | 1.5 mmol, 0.25 g | FC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3FN2O2
reactant | methylamine | 2.0 M, 5.0 mL | CN | CH5N
solvent | THF | C1CCOC1 | C4H8O
product | 4-Methylamino-3-nitrobenzonitrile | 0.18 g, 68% | CNC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C8H7N3O2
